US06218404B1
A mixture of N-[(4-amino-3-nitrophenoxy)ethyl]-1,2,3,4-tetrahydroisoquinoline (250 mg, 0.8 mmol) and Raney Ni (about 200 mg) in MeOH (15 mL) was shaken under H2 (25 parr) for 4 h, then filtered. The filtrate was evapoated, and the residue was purified by chromatography over silica gel (CHCl3-EtOH-NH4OH, 60:40:0.5) to give 218 mg (96%) of N-[(3,4-diaminophenoxy)ethyl]-1,2,3,4-tetrahydroisoquinoline as a brown viscous oil. 1H NMR (CDCl3): 2.87-2.96 (m, 10H), 3.764 (s, 2H), 4.122 (t, 2H, J=5), 6.545 (dd, 1H, J=8; 2), 6.362 (d, 1H, J=2), 6.633 (d, 1H, J=8), 7.01-7.20 (m, 5H).

reactant | N-[(4-amino-3-nitrophenoxy)ethyl]-1,2,3,4-tetrahydroisoquinoline | 0.8 mmol, 250 mg | NC1=C(C=C(OCCN2CC3=CC=CC=C3CC2)C=C1)[N+](=O)[O-] | C17H19N3O3
solvent | MeOH | 15 mL | CO | CH4O
catalyst | Ni | about 200 mg | [Ni] | Ni
product | N-[(3,4-diaminophenoxy)ethyl]-1,2,3,4-tetrahydroisoquinoline | 218 mg, 96% | NC=1C=C(OCCN2CC3=CC=CC=C3CC2)C=CC1N | C17H21N3O
